US05514680
4,5-Bis(trifluoromethyl)-1,2-phenylenediamine
A solution of 122 mg (0.445 mmol) of 4,5-bis(trifluoromethyl)-2-nitroaniline and 498 mg (2.62 mmol) of SnCl2 in 6 mL of ethanol was heated at 70° C. for 2 h. The solution was evaporated to remove the ethanol. The residue was treated with 2N NaOH to pH=13. White precipitate was observed. The mixture was extracted by CHCl3 (3×10 mL). The extract was dried (MgSO4) and evaporated to leave 102 mg (94%) of oil. 1H NMR (CDCl3), 3.70 (mb, 4), 7.069 (s, 2) and some impurity. 19F NMR (CDCl3), 56.659 (s).

reactant | 4,5-bis(trifluoromethyl)-2-nitroaniline | 0.445 mmol, 122 mg | FC(C1=CC(=C(N)C=C1C(F)(F)F)[N+](=O)[O-])(F)F | C8H4F6N2O2
reactant | SnCl2 | 2.62 mmol, 498 mg | Cl[Sn]Cl
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 4,5-Bis(trifluoromethyl)-1,2-phenylenediamine | 102 mg, 94% | FC(C1=CC(=C(C=C1C(F)(F)F)N)N)(F)F | C8H6F6N2
